US06391874B1
A stirred solution of 2-amino-5-cyanobenzoic acid (2.0 g, 12.3 mmol) in formamide (10 ml) was heated at 190° C. for 7 hours. The dark solution was allowed to cool and poured into water (50 ml). The resulting precipitate was collected by filtration and dried in vacuo at 60° C. to give 6-cyanoquinazolinone (0.93 g, 5.43 mmol, 44%); [2H6]DMSO 12.65 (1H,s), 8.50 (1H,s), 8.28 (1H,s), 8.18 (1H,dd), 7.81(1H,d).

reactant | 2-amino-5-cyanobenzoic acid | 12.3 mmol, 2.0 g | NC1=C(C(=O)O)C=C(C=C1)C#N | C8H6N2O2
reactant | water | 50 ml | O | H2O
reactant | formamide | 10 ml | C(=O)N | CH3NO
product | 6-cyanoquinazolinone | 5.43 mmol, 0.93 g, 44% | C(#N)C=1C=C2C=NC(NC2=CC1)=O | C9H5N3O
